US03998894
A mixture of 115 parts of o-chlorostyrene and 35 parts of o-chloroethylbenzene is added to a mixture of 652 parts of 78 per cent strength by weight phosphoric acid and 20 parts of sulfuric acid monohydrate at 30° to 35° C, whilst stirring vigorously. A mixture of 90 parts of styrene, 115 parts of o-chlorostyrene and 35 parts of o-chloroethylbenzene is then added at 30° to 35° C over 5 hours. After completion of the addition, the mixture is stirred for a further 2 hours and the organic phase is separated off and washed with 200 parts of 3 per cent strength by weight sodium hydroxide solution. Fractional distillation at 10 mm Hg gives 25 parts of 1-methyl-3-phenylindan, 30 parts of 1-methyl-3-(o-chloro)-phenylindan (b.p. 165° to 168° C (10 mm), nD25 : 1.5890) and 28 parts of 1-methyl-3-(o-chloro)-phenyl-7-chloroindan (b.p. 195° to 200° C (10 mm)).

reactant | o-chlorostyrene | ClC1=C(C=C)C=CC=C1 | C8H7Cl
reactant | o-chloroethylbenzene | ClCCC1=CC=CC=C1 | C8H9Cl
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | sulfuric acid monohydrate | O.S(O)(O)(=O)=O
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
product | 1-methyl-3-phenylindan | CC1CC(C2=CC=CC=C12)C1=CC=CC=C1 | C16H16
